US05637701
(S)-Bis(trimethylsilyl)mandelic acid
To a solution of (S)-(+)-mandelic acid (62.49 g, 0.41 mol) in dry dichloromethane (250 ml) was added 1,3-bis(trimethylsilyl)urea (88.40 g, 0.41 mol). The reaction mixture was stirred for twenty four hours at room temperature under argon. The suspension was refluxed for twelve hours.

reactant | (S)-(+)-mandelic acid | 0.41 mol, 62.49 g | C([C@@H](O)C1=CC=CC=C1)(=O)O | C8H8O3
reactant | 1,3-bis(trimethylsilyl)urea | 0.41 mol, 88.40 g | C[Si](NC(=O)N[Si](C)(C)C)(C)C | C7H20N2OSi2
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | (S)-Bis(trimethylsilyl)mandelic acid | C[Si](C)(C)C1=C([C@](C(=O)O)(O)[Si](C)(C)C)C=CC=C1 | C14H24O3Si2
